US08071584B2
5-bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxylic acid
To a microwave vial was added 1-(1,1-dimethylethyl) 7-methyl 5-bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-1,7-dicarboxylate (432 mg, 0.91 mmol), LiOH (109 mg, 4.5 mmol), MeOH (6 mL) and H2O (3 mL). The mixture was heated to 80° C. for 30 min in the microwave. The reaction mixture was then purified via Gilson HPLC (TFA buffer) to give 99 mg of the title compound.

reactant | 1-(1,1-dimethylethyl) 7-methyl 5-bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-1,7-dicarboxylate | 0.91 mmol, 432 mg | BrC=1C=C2C(=CN(C2=C(C1)C(=O)OC)C(=O)OC(C)(C)C)C1CS(CC1)(=O)=O | C19H22BrNO6S
reactant | LiOH | 4.5 mmol, 109 mg | [Li+].[OH-]
reactant | MeOH | 6 mL | CO | CH4O
solvent | H2O | 3 mL | O | H2O
product | 5-bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxylic acid | 99 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)O)C1CS(CC1)(=O)=O | C13H12BrNO4S
